US06740647B1
c) 2-Cyano-4-hydroxymethylthiophene
3.47 g (91.8 mmol) of sodium borohydride were added, a little at a time, to a suspension of 12.6 g (91.8 mmol) of 2-cyano-4-formylthiophene in 200 ml of ethanol and stirred at room temperature for 2 hours, during which process the reaction mixture slowly formed a clear solution. After concentration in vacuo, the residue was taken up in ethyl acetate, washed in succession with saturated sodium chloride solution, 5% strength citric acid and saturated sodium chloride solution, and the organic phase was dried using sodium sulfate and concentrated in vacuo. 11.7 g of almost pure product resulted (yield 91.5%).

reactant | sodium borohydride | 91.8 mmol, 3.47 g | [BH4-].[Na+]
reactant | 2-cyano-4-formylthiophene | 91.8 mmol, 12.6 g | C(#N)C=1SC=C(C1)C=O | C6H3NOS
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Cyano-4-hydroxymethylthiophene | yield 91.5% | C(#N)C=1SC=C(C1)CO | C6H5NOS
